US04053615
4-(4-Nitrophthalimido)-1-(2-phenylethyl)piperidine
9.66 Grams of 4-nitrophthalic anhydride and 10.11 grams of 4-amino-1-(2-phenylethyl)piperidine were reacted in a similar manner to that described in Example 12 to give 10.51 grams of the title compound as the monohydrochloride.

reactant | 4-nitrophthalic anhydride | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | 4-amino-1-(2-phenylethyl)piperidine | 10.11 grams | NC1CCN(CC1)CCC1=CC=CC=C1 | C13H20N2
reactant | monohydrochloride | Cl | ClH
product | 4-(4-Nitrophthalimido)-1-(2-phenylethyl)piperidine | 10.51 grams | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)C2CCN(CC2)CCC2=CC=CC=C2)=CC1 | C21H21N3O4
